US05057614
A solution of 1.6 g of 3-[1-(2-acetoxyethyl)-3-indolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione in 4 ml of DMF and 8 ml of 33% aqueous ammonia was heated to 160° C. for 4 hours. The precipitate was filtered off and dried to give 1.04 g of 3-[1-(2-hydroxyethyl)-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione, m.p. 250°-252° C.

reactant | 3-[1-(2-acetoxyethyl)-3-indolyl]-4-(1-methyl-3-indolyl)furan-2,5-dione | 1.6 g | C(C)(=O)OCCN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C25H20N2O5
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | ammonia | 8 ml | N | H3N
product | 3-[1-(2-hydroxyethyl)-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 1.04 g | OCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C23H19N3O3
